US20010027196A1
2-Amino-4-[2-(5-chloro-pyridin-2-ylamino)-ethylamino]-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, 2-[(2-aminoethyl)amino]-5-chloropyridine hydrochloride and DBU in DME. ES-MS m/e (%): 356 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 2-[(2-aminoethyl)amino]-5-chloropyridine hydrochloride | Cl.NCCNC1=NC=C(C=C1)Cl
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-[2-(5-chloro-pyridin-2-ylamino)-ethylamino]-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCCNC1=NC=C(C=C1)Cl)C#N)C=1OC=CC1 | C16H14ClN7O
